US05004741
3(RS)-(3-indoleacetylamino)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one
3-(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (75 mg, 0.298 mmol) and indole-3-acetyl chloride (57.8 mg, 0.298 mmol) were combined in CH2Cl2 (2 ml) and the pH adjusted to 9.0 with triethylamine (TEA) 41 μl, 0.298 mmol). After stirring 15 min., a second portion of indole-3-acetyl chloride (44 mg, 0.175 mmol) and TEA (30 μl, 0.215 mmol) were added and the reaction stirred an additional 15 min. The completed reaction was diluted with CH2Cl2, washed with H2O (1X) and brine (1X), dried over MgSO4, filtered and stripped to dryness in vacuo. The residue was chromatographed on silica gel (5% MeOH in CH2Cl2) to give the title compound as a pinkish solid from Et2O: (m.p. 264°-265°).

reactant | 3-(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.298 mmol, 75 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | triethylamine | 0.298 mmol, 41 μl | C(C)N(CC)CC | C6H15N
reactant | TEA | 0.215 mmol, 30 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 3(RS)-(3-indoleacetylamino)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | N1C=C(C2=CC=CC=C12)CC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C25H20N4O2
